US04760069
6-Oximino-17-methyl-4,5α-epoxy-3,14-dihydroxymorphinan
A solution of oxymorphone (1.2 g, 4 mmol) and hydroxylamine hydrochloride (0.35 g, 5 mmol) in 20 mL of methanol was treated with 2 mL of 10% aqueous NaOH and stirred at room temperature for 15 h. The reaction mixture was poured into water and extracted with 150 mL CHCl3 (3×50 mL). The CHCl3 extract was dried (MgSO4), and evaporated. The residue was recrystallized from THF-petroleum ether yielding 600 mg (47.4%), mp 270°-71° C. IR: (KBr): No C=O absorption at 1720 cm-1. H NMR (d6DMSO) δ 4.83 (s, C5H), Rf: silica gel EtOAc-EtOH-NH4OH (100:1:1) 0.18. Anal. Calcd for C17H20N2O4C, 64.54; H, 6.37; N, 8.86. Found C, 64.76; H, 6.5; N, 8.58.

reactant | oxymorphone | 4 mmol, 1.2 g | CN1CC[C@]23C=4C5=CC=C(C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O | C17H19NO4
reactant | hydroxylamine hydrochloride | 5 mmol, 0.35 g | Cl.NO
reactant | NaOH | 2 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 6-Oximino-17-methyl-4,5α-epoxy-3,14-dihydroxymorphinan | N(O)=C1[C@H]2[C@]34C=5C(=C(C=CC5C[C@H]([C@@]3(CC1)O)N(CC4)C)O)O2 | C17H20N2O4
